data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2059,2286,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:21]([C:22]#[N:23])([C:24](=[O:25])[O:26][CH3:27])[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:28](=[O:29])[O:30][CH3:31],water,298.15,18.330677795456506,-10.80333872781471
3175,3583,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][N:8]=[N+:9]([CH3:10])[N-:11][C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:11]([C:12](=[O:13])[NH:14][CH3:15])[N:9]([CH3:10])[N:8]1[CH3:7],water,298.15,36.06316435560754,-4.194540414312312
982,1067,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([C:17]([CH3:18])=[O:19])[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:22]([C:23]#[N:24])[N:20]([CH3:21])[C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:17]([CH3:18])=[O:19],water,298.15,17.106000820385606,-41.93673997288072
3359,3814,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][C-:14]([C:15]#[N:16])[C:17]#[N:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:14]([C:15]#[N:16])([C:17]#[N:18])[NH:13][C:10]1([C:8]([CH3:7])=[O:9])[C:11]#[N:12],water,298.15,28.88820879471428,-7.214244506906253
4885,5569,[CH3:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:14]([CH3:15])=[O:16])[N:17]([CH3:18])[C:19]1([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,49.11448022914241,11.33076508431672
351,381,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][NH:9][C:10](=[O:11])[C-:12]([N+:13]#[C:14][C:15]#[N:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([C:17](=[O:18])[NH:19][CH3:20])[N:13]=[C:14]1[C:15]#[N:16],water,298.15,11.747351814801236,-68.81440836184275
5005,5693,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18](=[O:19])[NH:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18](=[O:19])[NH:20][CH3:21])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,18.529304611423463,-42.21757231872475
147,164,[CH3:7][NH:8][C:9](=[O:10])[N-:11][NH+:12]=[CH:13][C:14](=[O:15])[O:16][CH3:17].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[N:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][CH:13]1[C:14](=[O:15])[O:16][CH3:17],water,298.15,22.142226539024712,-39.22756920693368
386,418,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][C-:18]([CH3:19])[CH3:20].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([CH3:19])([CH3:20])[N:17]=[C:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,18.81578237037263,-33.51763034265875
1735,1920,[CH3:13][C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])/[C:5]([Cl:6])=[C:7](\[Cl:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([Cl:6])[C@:7]([Cl:8])([C:9](=[O:10])[NH:11][CH3:12])[C:18]([C:19]#[N:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:16]([CH3:17])[C:14]1([CH3:13])[CH3:15],water,298.15,33.025692626739804,-7.279621976859733
4961,5648,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[O:11]=[c:12]1[o:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o+:21][c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[O:13][C:12](=[O:11])[C:22]2([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[O:21]1,water,298.15,17.212746627804847,0.7342667818338621
609,669,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH:15]#[N+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[CH:15]=[N:16][C:17]2([CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,8.255722401130447,-51.048215789947136
